US05013863
A solution of 176 g of ethyl 1,1-diethoxyethyl(n-butyl)phosphinate in 540 ml of absolute dichloromethane containing 10% of absolute ethanol is treated with 143.6 g of trimethylchlorosilane. After stirring for 48 hours at room temperature, the solvent is removed in vacuo to afford a pale yellow oil. Distillation in vacuo affords ethyl n-butyl-phosphinate, b.p. 27-34° (2×10-2 mbar).

reactant | ethyl 1,1-diethoxyethyl(n-butyl)phosphinate | 176 g | C(C)OC(C)(OCC)P(OCC)(=O)CCCC | C12H27O4P
reactant | ethanol | C(C)O | C2H6O
reactant | trimethylchlorosilane | 143.6 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | dichloromethane | 540 ml | ClCCl | CH2Cl2
product | ethyl n-butyl-phosphinate | C(CCC)P(OCC)=O | C6H15O2P
